US04150223
Trisodium 3-acetoxymethyl-7β-(2-[3-thienyl]-2-carboxyacetamido)-3-cephem-4-phosphonate (1 g.) is dissolved in 100 ml. of a solution of citrus acetyl esterase (J. D. A. Jeffery, et. al., Biochem. J. (1961) 81, 591). The pH is adjusted to 6.6 and the mixture is maintained at 30° C. 1 N NaOH is added dropwise to maintain the pH at 6.6 as the reaction proceeds and the reaction is continued until no further pH change occurs. 10 g. NaCl is added and the mixture is layered with 50 ml. EtOAc, the pH is adjusted to 2.1 with HCl and the mixture is stirred vigorously. The EtOAc layer is separated and washed once with water and then layered with water and stirred and the pH of the aqueous phase is adjusted to 5.9 with 6 N NaOH. The aqueous layer is separated and freeze-dried to give trisodium 3-hydroxymethyl-7β-(2-[3-thienyl]-2-carboxyacetamido)-3-cephem-4-phosphonate.

reactant | Trisodium 3-acetoxymethyl-7β-(2-[3-thienyl]-2-carboxyacetamido)-3-cephem-4-phosphonate | 1 g | C(C)(=O)OCC=1CS[C@H]2N(C1P([O-])(=O)[O-])C([C@H]2NC(C(C(=O)O)C2=CSC=C2)=O)=O.[Na+].[Na+].[Na+]
reactant | NaOH | 1 N | [OH-].[Na+]
reactant | NaCl | [Na+].[Cl-]
reactant | HCl | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | trisodium 3-hydroxymethyl-7β-(2-[3-thienyl]-2-carboxyacetamido)-3-cephem-4-phosphonate | OCC=1CS[C@H]2N(C1P([O-])(=O)[O-])C([C@H]2NC(C(C(=O)O)C2=CSC=C2)=O)=O.[Na+].[Na+].[Na+] | InChI=1S/C14H15N2O8PS2.3Na/c17-3-7-5-27-13-9(11(19)16(13)12(7)25(22,23)24)15-10(18)8(14(20)21)6-1-2-26-4-6;;;/h1-2,4,8-9,13,17H,3,5H2,(H,15,18)(H,20,21)(H2,22,23,24);;;/q;3*+1/p-2/t8?,9-,13-;;;/m1.../s1
